US07838675B2
N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1R)-2-hydroxy-1-methylethoxy]-4-pyrimidinyl]-2-thiazolesulfonamide
To a solution of 2-[[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2-thiazolylsulfonyl)amino]-4-pyrimidinyl]oxy]-(2R)-propanoic acid ethyl ester (the product from step ii) (0.11 g) in THF (3 mL) was added lithium borohydride (2M solution in THF, 0.23 mL) and the mixture was mixture was stirred at ambient temperature for 20 h. The reaction mixture was cooled to 0° C., quenched with 0.5M HCl solution and the aqueous was extracted with EtOAc (×2). The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography on silica gel using MeOH/DCM (99:1 to 98:2 gradient) as eluent to give the title compound as a white solid. Yield: 15 mg

reactant | 2-[[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2-thiazolylsulfonyl)amino]-4-pyrimidinyl]oxy]-(2R)-propanoic acid ethyl ester | C(C)OC([C@@H](C)OC1=NC(=NC(=C1)NS(=O)(=O)C=1SC=CN1)SCC1=C(C(=CC=C1)F)F)=O | C19H18F2N4O5S3
reactant | lithium borohydride | 2M, 0.23 mL | [BH4-].[Li+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(1R)-2-hydroxy-1-methylethoxy]-4-pyrimidinyl]-2-thiazolesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)C=1SC=CN1)O[C@@H](CO)C | C17H16F2N4O4S3
